US04294960
p-Nitrobenzyl 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylate (syn isomer, 0.8 g.) was dissolved in a mixed solution of methanol (30 ml.) and tetrahydrofuran (60 ml.). After adding 10% palladium carbon (0.4 g.) to the solution, the mixture was subjected to catalytic reduction at room temperature under atmospheric pressure. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. Water (30 ml.) was added to the residue and the mixture was adjusted to pH 7.5 with an aqueous solution of sodium bicarbonate. After removing the insoluble substance from the mixture by filtration, the filtrate was washed with ethyl acetate (50 ml.). Ethyl acetate (70 ml.) was added to the solution, and the mixture was adjusted to pH 1.5 with 10% hydrochloric acid and then shaked sufficiently. After the ethyl acetate layer was removed, the aqueous layer was extracted with ethyl acetate (30 ml.) twice. The ethyl acetate layer and the extracts were combined together, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then concentrated under reduced pressure to give 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylic acid (syn isomer 0.48 g.), m.p. 165° to 174° C. (dec.).

reactant | p-Nitrobenzyl 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylate | 0.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H17ClN6O8S2
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 0.4 g | [C].[Pd]
product | 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylic acid | 0.48 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOC | C14H12ClN5O6S2
